US05218109
In 2 ml of tetrahydrofuran was dissolved 43 mg of 20-methyl-1α,3β-bis(methoxymethoxy)-21-p-tolylsulfonylpregna-5,7-diene and the solution was cooled in a dry ice-acetone bath under argon atmosphere. To the solution was added 0.35 ml of a lithium diisopropylamide solution prepared from 2 ml of a 1.5N hexane solution of butyllithium and 0.5 ml of diisopropylamine in 10 ml of tetrahydrofuran. The mixture was stirred at -30° C. for 30 minutes and then again cooled in a dry ice-acetone bath. A solution of 100 mg of 1,2-epoxy-3-methyl-3-(2-tetrahydropyranyloxy)butane in 1 ml of tetrahydrofuran was added and the resulting mixture was stirred at -20° C. for 7 hours. A saturated aqueous solution of ammonium chloride was added to the reaction mixture and the mixture was allowed to warm to ambient temperature. Diethyl ether was added to the reaction mixture, the organic layer was separated, and the aqueous layer was extracted with diethyl ether. The organic layer was combined, washed in sequence with an aqueous solution of sodium hydrogen carbonate and an aqueous solution of sodium chloride, then dried over sodium sulfate and concentrated. The residue was purified by silica gel column chromatography to give 38 mg of 1α,3β-bis-(methoxymethoxy)-22-p-tolylsulfonyl-25-(2 -tetrahydropyranyloxy)cholesta-5,7-dien-24-ol.

reactant | 20-methyl-1α,3β-bis(methoxymethoxy)-21-p-tolylsulfonylpregna-5,7-diene | 43 mg | CC(CS(=O)(=O)C1=CC=C(C=C1)C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OCOC)OCOC | C33H48O6S
reactant | lithium diisopropylamide | 0.35 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 0.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | 1,2-epoxy-3-methyl-3-(2-tetrahydropyranyloxy)butane | 100 mg | O1CC1C(C)(OC1OCCCC1)C | C10H18O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | Diethyl ether | C(C)OCC | C4H10O
solvent | hexane | 1.5N | CCCCCC | C6H14
product | 1α,3β-bis-(methoxymethoxy)-22-p-tolylsulfonyl-25-(2 -tetrahydropyranyloxy)cholesta-5,7-dien-24-ol | 38 mg | COCO[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](C(CC(C(C)(C)OC5OCCCC5)O)S(=O)(=O)C5=CC=C(C=C5)C)C)[C@]4(CC[C@@H]3[C@@]12C)C)OCOC | C43H66O9S
